US07858784B2
Synthesis of 4-ethoxy-N-(4-methoxyphenyl)aniline (FIG. 12, Table 8, Entry 9)
Following general procedure E, a mixture of 4-chloroanisole (123 μL, 1.0 mmol), 4-ethoxyaniline (154 μL, 1.2 mmol), NaOt-Bu (115 mg, 1.2 mmol), 10 (0.08 mg, 0.01 mol %), 1 (0.05 mg, 0.01 mol %), and Bu2O (1 mL) was heated to 110° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-30% EtOAc/hexanes) to provide the title compound as a white solid (229 mg, 94%), mp 73-75° C. 1H NMR (300 MHz, CDCl3) δ: 6.95 (m, 4H), 6.84 (m, 4H), 5.34 (s, 1H), 4.01 (q, J=7.0 Hz, 2H), 3.80 (s, 3H), 1.43 (t, J=7.0 Hz, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 154.4, 153.8, 138.2, 138.1, 119.8, 119.7, 115.7, 114.9, 64.1, 55.9, 15.3 ppm. IR (neat, cm−1): 3421, 2983, 2956, 1513, 1298, 1253, 1116, 1052, 1037, 814. Anal. Calcd. for C15H17NO2: C, 74.05; H, 7.04. Found: C, 73.95; H, 7.06.

reactant | 4-chloroanisole | 1.0 mmol, 123 μL | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | 4-ethoxyaniline | 1.2 mmol, 154 μL | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | NaOt-Bu | 1.2 mmol, 115 mg | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 1 mL | O(CCCC)CCCC | C8H18O
product | 4-ethoxy-N-(4-methoxyphenyl)aniline | 229 mg, 94% | C(C)OC1=CC=C(NC2=CC=C(C=C2)OC)C=C1 | C15H17NO2
